US08871792B2
(S)-2-Methoxycarbonylamino-3-methylbutyric Acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionyloxymethyl Ester
A mixture of (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid (200 mg, 430 mmol), (S)-2-methoxycarbonylamino-3-methylbutyric acid chloromethyl ester (193 mg, 860 mmol), NaI (129 mg, 860 μmol) and pyridine (136 mg, 1.7 mmol) in DMF (5.0 mL) was stirred at 25° C. overnight. The mixture was then poured into water (30 mL) and extracted with EtOAc (3×20 mL). The combined organic layers were washed with saturated aqueous NaCl (30 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography (PE:EtOAc=1:1) to yield the title compound as a colorless liquid (7 mg). LC-MS: 651.1 [M+H]+. 1H NMR (CD3OD, 400 MHz): δ 0.95-0.97 (m, 6H), 2.06-2.14 (m, 1H), 3.34-3.39 (m, 2H), 3.69 (s, 3H), 3.98 (s, 3H), 4.08-4.11 (m, 1H), 4.22-4.24 (m, 2H), 4.38-4.40 (m, 1H), 5.78-5.91 (m, 2H), 6.54 (s, 1H), 7.18-7.22 (m, 1H), 7.34-7.36 (m, 1H), 7.46-7.55 (m, 5H).

reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid | 430 mmol, 200 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)O)O)F | C21H19ClFN3O6
reactant | (S)-2-methoxycarbonylamino-3-methylbutyric acid chloromethyl ester | 860 mmol, 193 mg | ClCOC([C@H](C(C)C)NC(=O)OC)=O | C8H14ClNO4
reactant | NaI | 860 μmol, 129 mg | [Na+].[I-]
reactant | pyridine | 1.7 mmol, 136 mg | N1=CC=CC=C1 | C5H5N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | (S)-2-Methoxycarbonylamino-3-methylbutyric Acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionyloxymethyl Ester | 7 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)OCOC([C@H](C(C)C)NC(=O)OC)=O)O)F | C29H32ClFN4O10
